US07166623B2
N-[2-(3,4-Dimethoxyphenylamino)-2-oxoethyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2 -yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4 oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 2-amino-N-(3,4-dimethoxyphenyl)acetamide using method I.

reactant | 2′-methyl-5′-(5-methyl-1,3,4 oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 2-amino-N-(3,4-dimethoxyphenyl)acetamide | NCC(=O)NC1=CC(=C(C=C1)OC)OC | C10H14N2O3
product | N-[2-(3,4-Dimethoxyphenylamino)-2-oxoethyl]-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2 -yl)-1,1′-biphenyl-4-carboxamide | COC=1C=C(C=CC1OC)NC(CNC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)=O | C27H26N4O5
